### PR TITLE
[Merged by Bors] - feat: the `House` of an algebraic number

### PR DESCRIPTION
**Pull request by mkaratarakis**
Let $K$ be an algebraic number field of degree $h,$ and let $\beta_1, \ldots , \beta_h$ be an integer basis, so that every integer in $K$ has the unique representation $a_1\beta_1 + \ldots + a_h\beta_h$ where $a_1, \ldots , a_h$ are rational integers. 

We shall denote by ${\overline{\hspace{-1pt}\smash[t]{|}\hspace{1pt}\alpha\hspace{1pt}\smash[t]{|}\hspace{-1pt}}}$ the maximum of the modulus of the conjugates $\alpha^{(i)}$ with $(1 \leq i \leq h)$ of $\alpha,$ that is $${\overline{\hspace{-1pt}\smash[t]{|}\hspace{1pt}\alpha\hspace{1pt}\smash[t]{|}\hspace{-1pt}}}= \max_{1 \leq i \leq h} \left|\alpha^{(i)}\right|.$$ 

In the following we let $c$ be a natural number depending on $K$ and its basis $\beta_1, \ldots , \beta_h.$ 

It can be shown that if $\alpha$ is an algebraic integer with $\alpha = a_1\beta_1 + \ldots + a_h\beta_h,$ then $$\left|a _i\right| \leq  c \;{\overline{\hspace{-1pt}\smash[t]{|}\hspace{1pt}\alpha\hspace{1pt}\smash[t]{|}\hspace{-1pt}}}·$$

Reference : Keng, Hua Loo. "Introduction to Number Theory.", page 489, Springer-Verlag (1982)

### CODE REVIEW

**Comment by grunweg** [comment]
Thanks for your contribution and welcome to mathlib!
I see your pull request has three errors - just in case you didn't see this already, [the documentation guidelines](https://leanprover-community.github.io/contribute/doc.html) mention how to fix the first. (For the second one, you can simply re-wrap the line.)
You can fix the third one (you need to update the file `Mathlib.lean` to mention your new file) by running `lake exe mk_all`, for example. (Currently, that script has a small bug on windows - let me know if this programm fails and I can run it for you.)
After these fixes, your PR should be ready for review!

**Comment by mkaratarakis** [comment]
> Thanks for your contribution and welcome to mathlib! I see your pull request has three errors - just in case you didn't see this already, [the documentation guidelines](https://leanprover-community.github.io/contribute/doc.html) mention how to fix the first. (For the second one, you can simply re-wrap the line.) You can fix the third one (you need to update the file `Mathlib.lean` to mention your new file) by running `lake exe mk_all`, for example. (Currently, that script has a small bug on windows - let me know if this programm fails and I can run it for you.) After these fixes, your PR should be ready for review!

**Comment by erdOne** [comment]
Thanks for the contribution!
Please read the naming conventions [here](https://leanprover-community.github.io/contribute/naming.html) and adjust accordingly. Thanks again!

**Comment by riccardobrasca** [comment]
Can you please add a reference in the standard mathematical literature?

File: docs/references.bib [hunk 1]
```diff
@@ -2101,6 +2101,14 @@ @Book{            kechris1995
   url           = {https://doi.org/10.1007/978-1-4612-4190-4}
 }
 
+@Book{            keng1982house,
+  author        = {Keng, Hua Loo},
+  publisher     = {Springer},
+  title         = {Introduction to Number Theory},
+  year          = {1982},
+  pages         = {489}
+}
```
[the remark this answers is not in the document]
Comment (riccardobrasca) [reply docs/references.bib:2110]: Unfortunately I think you have to put the reference in alphabetical order by hand, otherwise the bot gets crazy. If you want to complain feel free to write on Zulip :)

File: Mathlib/NumberTheory/NumberField/House.lean [hunk 2]
```diff
@@ -0,0 +1,191 @@
...
+-/
+
+open BigOperators Module.Free Fintype NumberField Embeddings FiniteDimensional Matrix
+  Set Algebra Polynomial Basis Finset
+
+variable {K : Type*} [Field K] [NumberField K]
+
+local notation "h" => finrank ℚ K
+
+theorem Matrix.inv_mulVec_eq {u v : Fin h → ℂ} {M : Matrix (Fin h) (Fin h) ℂ} [Invertible M]
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/House.lean:29]: This can surely be generalized, and should go somewhere else.

File: Mathlib/NumberTheory/NumberField/House.lean [hunk 3]
```diff
@@ -0,0 +1,191 @@
...
+    (hM : u = M.mulVec v) : M⁻¹.mulVec u = v := by
+  simp only [hM, Matrix.mulVec_mulVec, Matrix.inv_mul_of_invertible, Matrix.one_mulVec]
+
+theorem Finset.max'_eq_of_eq {γ : Type _} [LinearOrder γ] {s t : Finset γ} (hs : s.Nonempty)
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/House.lean:33]: Same, this should be somewhere else.

File: Mathlib/NumberTheory/NumberField/House.lean [hunk 4]
```diff
@@ -0,0 +1,191 @@
...
+    (ht : t.Nonempty) (hst : s = t) : s.max' hs = t.max' ht := by simp_rw [hst]
+
+/-- `Finset.max'OfFintype` takes a function `f` from a finite and nonempty type `s` to a
+  linearly ordered type `γ`, and returns the maximum value of `f` over all elements of `s`. -/
+def Finset.max'OfFintype {s γ : Type _} [Fintype s] [Nonempty s] (f : Π _ : s, γ)
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/House.lean:38]: Same.

File: Mathlib/NumberTheory/NumberField/House.lean [hunk 5]
```diff
@@ -0,0 +1,191 @@
...
+    [LinearOrder γ] : γ := by
+  apply Finset.max' (f '' Set.univ).toFinset
+  simp only [Set.image_univ, Set.toFinset_range, Finset.image_nonempty]
+  exact Finset.univ_nonempty
+
+/-- `Matrix.max_abs_entry` takes a matrix `B` of size `finrank ℚ K` and returns the maximum
+  absolute value of its entries. This is done by first finding the maximum absolute value of the
+  entries in each row, and then finding the maximum of those row maxima. -/
+noncomputable def Matrix.maxAbsEntry (B : Matrix (Fin (finrank ℚ K)) (Fin (finrank ℚ K)) ℂ) := by
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/House.lean:47]: The infinity norm of a matrix is already in mathlib, no need to redefine it. See for example [here](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/SiegelsLemma.html) to see how to work with it.

File: Mathlib/NumberTheory/NumberField/House.lean [hunk 6]
```diff
@@ -0,0 +1,191 @@
...
+/-- There is noncomputably a bijection between `Fin h` and `ChooseBasisIndex ℤ (𝓞 K)`
+ composing the equivalence `σ` with an equivalence derived from the cardinality of
+the embeddings and the cardinality of the integral basis of `K`.-/
+abbrev Fin.equivChooseBasisIndex : Fin h ≃ ChooseBasisIndex ℤ (𝓞 K) :=
+  (Fintype.equivFinOfCardEq (card K ℂ)).symm.trans
+    (equivOfCardEq ((card K ℂ).trans (finrank_eq_card_basis (integralBasis K))))
+
+/-- `basisReindex` is a basis of `𝓞 K` over `ℤ` by reindexing the basis
+provided by `RingOfIntegers.basis K` using the inverse of the equivalence `f`.-/
+abbrev basisReindex : Basis (Fin h) ℤ (𝓞 K) := (RingOfIntegers.basis K).reindex
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/House.lean:62]: @xroblot can you have a look at this? I have the impression we are reinventing the wheel, but I am not sure.

Comment (mkaratarakis) [reply Mathlib/NumberTheory/NumberField/House.lean:62]: Yes, for this, there are these equivalences Fin h ≃ (K →+* ℂ) and  Fin h ≃ Module.Free.ChooseBasisIndex ℤ (𝓞 K). Let me know which one is appropriate and I can refactor this stuff accordingly.

File: Mathlib/NumberTheory/NumberField/House.lean (hunk 5 above)
Comment (mkaratarakis) [reply Mathlib/NumberTheory/NumberField/House.lean:47]: Great! I actually had a more elementary proof of Siegel's lemma for quite some time but then I saw the thread that people had PR'd a better version already.

**Comment by xroblot** [comment]
I have the feeling that it would make more sense to do all of this using [NumberField.canonicalEmbedding](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/NumberField/CanonicalEmbedding/Basic.html#NumberField.canonicalEmbedding). Then, you could define the house of an algebraic number as the norm of its image by the canonical embedding, say
```lean
import Mathlib.NumberTheory.NumberField.CanonicalEmbedding.Basic

variable {K : Type*} [Field K] [NumberField K]

noncomputable section

namespace NumberField

open Module.Free NumberField FiniteDimensional NumberField.canonicalEmbedding

abbrev House (α : K) : ℝ := ‖canonicalEmbedding K α‖

theorem House_eq_sup' (α : K) :
    House α = Finset.univ.sup' Finset.univ_nonempty (fun φ : K →+* ℂ ↦ ‖φ α‖₊) := by
  rw [House, ← coe_nnnorm, nnnorm_eq, ← Finset.sup'_eq_sup Finset.univ_nonempty]
```

Then, the matrix you are interested in is given by the vectors `canonicalEmbedding.latticeBasis` (I think it's best to use the index: `K →+* ℂ`)

```lean
variable (K)

abbrev equivReindex : (K →+* ℂ) ≃ (ChooseBasisIndex ℤ (𝓞 K)) := by
  refine Fintype.equivOfCardEq ?_
  rw [Embeddings.card, ← finrank_eq_card_chooseBasisIndex, RingOfIntegers.rank]

abbrev basisMatrix : Matrix (K →+* ℂ) (K →+* ℂ) ℂ :=
  (Matrix.of fun i ↦ latticeBasis K (equivReindex K i)).transpose
```
then, the representation of `α` on the integral basis of `K` is satisfy: 
```lean
example (α : K) : canonicalEmbedding K α = (basisMatrix K).mulVec
    (fun i ↦ (((integralBasis K).reindex (equivReindex K).symm).repr α i : ℂ)) := by
  ext
  rw [← (canonicalEmbedding.latticeBasis K).sum_repr (canonicalEmbedding K α),
    ← Equiv.sum_comp (equivReindex K)]
  simp_rw [canonicalEmbedding.integralBasis_repr_apply, Matrix.mulVec, Matrix.dotProduct,
    basisMatrix, Matrix.transpose_apply, Matrix.of_apply, Finset.sum_apply, mul_comm,
    Basis.repr_reindex, Finsupp.mapDomain_equiv_apply, Equiv.symm_symm, Pi.smul_apply, smul_eq_mul]
```
Note that, for this last proof, there is a couple of functions missing that should be added to `CanonicalEmbedding.Basic`:
```lean
theorem canonicalEmbedding.mem_rat_span_latticeBasis (x : K) :
    canonicalEmbedding K x ∈ Submodule.span ℚ (Set.range (latticeBasis K)) := by
  rw [← Basis.sum_repr (integralBasis K) x, map_sum]
  simp_rw [map_rat_smul]
  refine Submodule.sum_smul_mem _ _ (fun i _ ↦ Submodule.subset_span ?_)
  rw [← latticeBasis_apply]
  exact Set.mem_range_self i

theorem canonicalEmbedding.integralBasis_repr_apply (x : K) (i : ChooseBasisIndex ℤ (𝓞 K)) :
    (canonicalEmbedding.latticeBasis K).repr (canonicalEmbedding K x) i =
      (integralBasis K).repr x i := by
  rw [← Basis.restrictScalars_repr_apply ℚ _ ⟨_, mem_rat_span_latticeBasis K x⟩, eq_ratCast,
    Rat.cast_inj]
  let f := (canonicalEmbedding K).toRatAlgHom.toLinearMap.codRestrict _
    (fun x ↦ mem_rat_span_latticeBasis K x)
  suffices ((latticeBasis K).restrictScalars ℚ).repr.toLinearMap ∘ₗ f =
    (integralBasis K).repr.toLinearMap from DFunLike.congr_fun (LinearMap.congr_fun this x) i
  refine Basis.ext (integralBasis K) (fun i ↦ ?_)
  have : f (integralBasis K i) = ((latticeBasis K).restrictScalars ℚ) i := by
    apply Subtype.val_injective
    rw [LinearMap.codRestrict_apply, AlgHom.toLinearMap_apply, Basis.restrictScalars_apply,
      latticeBasis_apply]
    rfl
  simp_rw [LinearMap.coe_comp, LinearEquiv.coe_coe, Function.comp_apply, this, Basis.repr_self]
```

**Comment by xroblot** [comment]
#14158

**Comment by mkaratarakis** [comment]
Where shall I move this to? 

```lean
universe u u' v

variable {m : Type u} {n : Type u'} {α : Type v}

variable [Fintype n] [DecidableEq n] [CommRing α]

lemma inv_mulVec_eq_vec (A : Matrix n n α) [Invertible A]
    {u v : n → α} (hM : u = A.mulVec v) : A⁻¹.mulVec u = v := by
  rw [hM, Matrix.mulVec_mulVec, Matrix.inv_mul_of_invertible, Matrix.one_mulVec]

```

**Comment by riccardobrasca** [comment]
> Where shall I move this to?
> 
> ```lean
> universe u u' v
> 
> variable {m : Type u} {n : Type u'} {α : Type v}
> 
> variable [Fintype n] [DecidableEq n] [CommRing α]
> 
> lemma inv_mulVec_eq_vec (A : Matrix n n α) [Invertible A]
>     {u v : n → α} (hM : u = A.mulVec v) : A⁻¹.mulVec u = v := by
>   rw [hM, Matrix.mulVec_mulVec, Matrix.inv_mul_of_invertible, Matrix.one_mulVec]
> ```

`#find_home` says `Mathlib.LinearAlgebra.Matrix.NonsingularInverse`.

**Comment by mkaratarakis** [comment]
Thanks, I didn't know this command

File: Mathlib/NumberTheory/NumberField/House.lean [hunk 7]
```diff
@@ -0,0 +1,139 @@
...
+      convert (map_ne_zero_iff _ (algebraMap ℚ ℂ).injective).mpr
+        (Algebra.discr_not_zero_of_basis ℚ (integralBasis K))
+      rw [← Algebra.discr_reindex ℚ (integralBasis K) e.symm]
+      exact (Algebra.discr_eq_det_embeddingsMatrixReindex_pow_two ℚ ℂ
+        (fun i => integralBasis K (e i)) RingHom.equivRatAlgHom).symm
+
+instance : Invertible (basisMatrix K) := by
+    have :(basisMatrix K).transpose.det ≠ 0 := det_of_basisMatrix_non_zero K
+    rw [Matrix.det_transpose (basisMatrix K)] at this
+    exact Matrix.invertibleOfIsUnitDet _ (Ne.isUnit this)
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/House.lean:92]:
```suggestion
instance : Invertible (basisMatrix K) :=
  Matrix.invertibleOfIsUnitDet _
    ((basisMatrix K).det_transpose ▸ det_of_basisMatrix_non_zero K).isUnit
```

**Review by riccardobrasca — COMMENTED** [review]
Everything should go in the `NumberField` namespace.

Also, `basisMatrix` could go somewhere else, but I am not sure it will useful... do you have plans to add results about the `house` of a number?

**Comment by mkaratarakis** [comment]
@riccardobrasca I read somewhere on Zulip that you were involved with reviewing  [Siegel's lemma](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/SiegelsLemma.html) as LFTCM.

I am using the same reference in the description of this PR :  Keng, Hua Loo. "Introduction to Number Theory.", page 489, Springer-Verlag (1982)

I have the proof of the version of Siegel's lemma (Lemma 8.1  page 589)

Let $0 < M < N,$ and $a_{jk}$ be rational integers satisfying $\left| a_{jk} \right| \leq A \quad \text{where } 1 \leq A, \mbox { } 1 \leq j \leq M \text{ and } 1 \leq k \leq N.$ Then there exists a set of rational integers $x_1 ... , x_N,$ not all zero, satisfying $a_{j1}x_1 + \cdots a_{jN}x_N = 0, \mbox { } 1\leq j \leq M$ and $|x_k| \leq(NA)^{\frac{M}{N-M}}, \mbox { } 1\leq k \leq N.$

stated as follows

```lean
import Mathlib.Analysis.SpecialFunctions.Pow.Real

open BigOperators

variable {α β : Type _} [Fintype α] [Fintype β] [DecidableEq β] [DecidableEq α]

theorem siegel (cardα : Fintype.card α = M) (cardβ : Fintype.card β = N)
  (h0M : 0 < M) (hMN : M < N) (a : Matrix α β ℤ) (A : ℝ)
  (hA : 1 ≤ A) (habs : ∀ (j : α) (k : β), abs (a j k) ≤ A) :
  ∃ (x : β → ℤ), (∃ k, x k ≠ 0) ∧ (a.mulVec x = 0) ∧
  (∀ k, |x k| ≤ (N * A) ^ ((M : ℝ)/ (N - M)) ) := by...
```

I want to use it in the proof of the following result (Lemma 8.2, page 590) : 

Let $0 < p < q,$ and $a_{kl}$ be rational integers satisfying $\overline{|a_{kl}|} \leq A$ where $A \geq 1$, $1 \leq k \leq p$  
and $1 \leq l \leq q.$ Then there exists a set of rational integers $\xi_1 \ldots, \xi_q,$ not all zero, satisfying $a_{k1}\xi_1 + \cdots + a_{kq}\xi_q = 0, \quad 1\leq k \leq p, \quad 1\leq l \leq q.$ and  $\overline{|\xi_l|} < c_1(1 + (c_1qA)^{\frac{p}{q-p}}).$

```lean
variable {K : Type*} [Field K] [NumberField K]

open BigOperators Module.Free Fintype NumberField Embeddings FiniteDimensional
  Matrix Set Algebra Finset Polynomial Finset

variable {α β : Type _} [Fintype α] [Fintype β] [DecidableEq β] [DecidableEq α]
  {K : Type*} [Field K] [NumberField K]

noncomputable abbrev c₂' := (@c K _ _ * maxFinFun (fun r => House (algebraMap (𝓞 K) K (b r))))

local notation "h" => finrank ℚ K

theorem lemma82
 (cardα : Fintype.card α = p) (cardβ : Fintype.card β = q)
  (h0p : 0 < p) (hpq : p < q) (a : Matrix α β (𝓞 K)) (A : ℝ) (hA : 1 ≤ A)
  (habs : ∀ k l, (House (a k l).1) ≤ A) :
  ∃ (ξ : β → 𝓞 K), (∃ l, ξ l ≠ 0) ∧ (∀ k, a.mulVec ξ k = 0) ∧
    ( ∀ l, House (ξ l).1 ≤ @c₂' K _ _* h * (1 + (q*(h*@c₂' K _ _)*A)^((p : ℝ)/(q-p)))) :=...
```
Lemma82 is one of the lemmas that I want to add in the API of the house and I now have to refactor it based on the changes. Do you have any advice on that? Should I just follow how Siegel's lemma is stated in mathlib and e.g remove that condition that $A \geq 1$ etc?

**Comment by riccardobrasca** [comment]
> @riccardobrasca I read somewhere on Zulip that you were involved with reviewing [Siegel's lemma](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/SiegelsLemma.html) at LFTCM.
> 
> I am using the same reference in the description of this PR : Keng, Hua Loo. "Introduction to Number Theory.", page 489, Springer-Verlag (1982)
> 
> I have the proof of the version of Siegel's lemma (Lemma 8.1 page 589)
> 
> Let 0<M<N, and ajk be rational integers satisfying |ajk|≤Awhere 1≤A, 1≤j≤M and 1≤k≤N. Then there exists a set of rational integers x1...,xN, not all zero, satisfying aj1x1+⋯ajNxN=0, 1≤j≤M and |xk|≤(NA)MN−M, 1≤k≤N.
> 
> stated as follows
> 
> ```lean
> import Mathlib.Analysis.SpecialFunctions.Pow.Real
> 
> open BigOperators
> 
> variable {α β : Type _} [Fintype α] [Fintype β] [DecidableEq β] [DecidableEq α]
> 
> theorem siegel (cardα : Fintype.card α = M) (cardβ : Fintype.card β = N)
>   (h0M : 0 < M) (hMN : M < N) (a : Matrix α β ℤ) (A : ℝ)
>   (hA : 1 ≤ A) (habs : ∀ (j : α) (k : β), abs (a j k) ≤ A) :
>   ∃ (x : β → ℤ), (∃ k, x k ≠ 0) ∧ (a.mulVec x = 0) ∧
>   (∀ k, |x k| ≤ (N * A) ^ ((M : ℝ)/ (N - M)) ) := by...
> ```
> 
> I want to use it in the proof of the following result (Lemma 8.2, page 590) :
> 
> Let 0<p<q, and akl be rational integers satisfying |akl|―≤A where A≥1, 1≤k≤p and 1≤l≤q. Then there exists a set of rational integers ξ1…,ξq, not all zero, satisfying ak1ξ1+⋯+akqξq=0,1≤k≤p,1≤l≤q. and |ξl|―<c1(1+(c1qA)pq−p).
> 
> ```lean
> variable {K : Type*} [Field K] [NumberField K]
> 
> open BigOperators Module.Free Fintype NumberField Embeddings FiniteDimensional
>   Matrix Set Algebra Finset Polynomial Finset
> 
> variable {α β : Type _} [Fintype α] [Fintype β] [DecidableEq β] [DecidableEq α]
>   {K : Type*} [Field K] [NumberField K]
> 
> noncomputable abbrev c₂' := (@c K _ _ * maxFinFun (fun r => House (algebraMap (𝓞 K) K (b r))))
> 
> local notation "h" => finrank ℚ K
> 
> theorem lemma82
>  (cardα : Fintype.card α = p) (cardβ : Fintype.card β = q)
>   (h0p : 0 < p) (hpq : p < q) (a : Matrix α β (𝓞 K)) (A : ℝ) (hA : 1 ≤ A)
>   (habs : ∀ k l, (House (a k l).1) ≤ A) :
>   ∃ (ξ : β → 𝓞 K), (∃ l, ξ l ≠ 0) ∧ (∀ k, a.mulVec ξ k = 0) ∧
>     ( ∀ l, House (ξ l).1 ≤ @c₂' K _ _* h * (1 + (q*(h*@c₂' K _ _)*A)^((p : ℝ)/(q-p)))) :=...
> ```
> 
> Lemma82 is one of the lemmas that I want to add in the API of the house and I now have to refactor it based on the changes. Do you have any advice on that? Should I just follow how Siegel's lemma is stated in mathlib ?

I am a little busy today, but @fbarroero is probably interested in anything related to the Siegel lemma.

**Comment by mkaratarakis** [comment]
Thanks, I just spoke with Mario (we are attending both the trimester in Bonn) and he said we might need to versions of Siegel's lemma.

**Comment by fbarroero** [comment]
> > @riccardobrasca I read somewhere on Zulip that you were involved with reviewing [Siegel's lemma](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/SiegelsLemma.html) at LFTCM.
> > I am using the same reference in the description of this PR : Keng, Hua Loo. "Introduction to Number Theory.", page 489, Springer-Verlag (1982)
> > I have the proof of the version of Siegel's lemma (Lemma 8.1 page 589)
> > Let 0<M<N, and ajk be rational integers satisfying |ajk|≤Awhere 1≤A, 1≤j≤M and 1≤k≤N. Then there exists a set of rational integers x1...,xN, not all zero, satisfying aj1x1+⋯ajNxN=0, 1≤j≤M and |xk|≤(NA)MN−M, 1≤k≤N.
> > stated as follows
> > ```lean
> > import Mathlib.Analysis.SpecialFunctions.Pow.Real
> > 
> > open BigOperators
> > 
> > variable {α β : Type _} [Fintype α] [Fintype β] [DecidableEq β] [DecidableEq α]
> > 
> > theorem siegel (cardα : Fintype.card α = M) (cardβ : Fintype.card β = N)
> >   (h0M : 0 < M) (hMN : M < N) (a : Matrix α β ℤ) (A : ℝ)
> >   (hA : 1 ≤ A) (habs : ∀ (j : α) (k : β), abs (a j k) ≤ A) :
> >   ∃ (x : β → ℤ), (∃ k, x k ≠ 0) ∧ (a.mulVec x = 0) ∧
> >   (∀ k, |x k| ≤ (N * A) ^ ((M : ℝ)/ (N - M)) ) := by...
> > ```
> > 
> > 
> >     
> >       
> >     
> > 
> >       
> >     
> > 
> >     
> >   
> > I want to use it in the proof of the following result (Lemma 8.2, page 590) :
> > Let 0<p<q, and akl be rational integers satisfying |akl|―≤A where A≥1, 1≤k≤p and 1≤l≤q. Then there exists a set of rational integers ξ1…,ξq, not all zero, satisfying ak1ξ1+⋯+akqξq=0,1≤k≤p,1≤l≤q. and |ξl|―<c1(1+(c1qA)pq−p).
> > ```lean
> > variable {K : Type*} [Field K] [NumberField K]
> > 
> > open BigOperators Module.Free Fintype NumberField Embeddings FiniteDimensional
> >   Matrix Set Algebra Finset Polynomial Finset
> > 
> > variable {α β : Type _} [Fintype α] [Fintype β] [DecidableEq β] [DecidableEq α]
> >   {K : Type*} [Field K] [NumberField K]
> > 
> > noncomputable abbrev c₂' := (@c K _ _ * maxFinFun (fun r => House (algebraMap (𝓞 K) K (b r))))
> > 
> > local notation "h" => finrank ℚ K
> > 
> > theorem lemma82
> >  (cardα : Fintype.card α = p) (cardβ : Fintype.card β = q)
> >   (h0p : 0 < p) (hpq : p < q) (a : Matrix α β (𝓞 K)) (A : ℝ) (hA : 1 ≤ A)
> >   (habs : ∀ k l, (House (a k l).1) ≤ A) :
> >   ∃ (ξ : β → 𝓞 K), (∃ l, ξ l ≠ 0) ∧ (∀ k, a.mulVec ξ k = 0) ∧
> >     ( ∀ l, House (ξ l).1 ≤ @c₂' K _ _* h * (1 + (q*(h*@c₂' K _ _)*A)^((p : ℝ)/(q-p)))) :=...
> > ```
> > 
> > 
> >     
> >       
> >     
> > 
> >       
> >     
> > 
> >     
> >   
> > Lemma82 is one of the lemmas that I want to add in the API of the house and I now have to refactor it based on the changes. Do you have any advice on that? Should I just follow how Siegel's lemma is stated in mathlib ?
> 
> I am a little busy today, but @fbarroero is probably interested in anything related to the Siegel lemma.

Hi!
Thanks @riccardobrasca for calling me.

I see that you need a version of the lemma `Int.Matrix.exists_ne_zero_int_vec_norm_le` that was added recently to Mathlib. 
When we started working on this project, for some reason we worked with matrices in `Matrix (Fin m) (Fin n) ℤ` instead of `Matrix α β ℤ` for `[Fintype α] [Fintype β]` as you would like to have. It seems to me that this is the only relevant difference between the two versions. 
In any case, I have modified the file `SiegelsLemma` so that the main theorem is now the following
```lean
Int.Matrix.exists_ne_zero_int_vec_norm_le.{u_1, u_2} {α : Type u_1} {β : Type u_2} [Fintype α] [Fintype β]
  [DecidableEq β] [DecidableEq α] (m n : ℕ) (cardα : Fintype.card α = m) (cardβ : Fintype.card β = n) (A : Matrix α β ℤ)
  (hn : m < n) (hm : 0 < m) (hA_nezero : A ≠ 0) : ∃ t, t ≠ 0 ∧ A *ᵥ t = 0 ∧ ‖t‖ ≤ (↑n * ‖A‖) ^ ((m : ℝ) / (n - m))
```
which is, I think, very similar to what you want and specialises to the theorem currently on Mathlib. 

What do you think @mkaratarakis  and @riccardobrasca ?
I could make a PR if you agree.

**Comment by riccardobrasca** [comment]
If it is possible to have only one version that is general enough this would be the best solution. But no problem if we really need two versions.

**Comment by mkaratarakis** [comment]
Hi  @riccardobrasca 

If this new version of Siegel's lemma gets PR'd
```lean
Int.Matrix.exists_ne_zero_int_vec_norm_le.{u_1, u_2} {α : Type u_1} {β : Type u_2} [Fintype α] [Fintype β]
  [DecidableEq β] [DecidableEq α] (m n : ℕ) (cardα : Fintype.card α = m) (cardβ : Fintype.card β = n) (A : Matrix α β ℤ)
  (hn : m < n) (hm : 0 < m) (hA_nezero : A ≠ 0) : ∃ t, t ≠ 0 ∧ A *ᵥ t = 0 ∧ ‖t‖ ≤ (↑n * ‖A‖) ^ ((m : ℝ) / (n - m))
```
as @fbarroero suggests, what would be the statement of Lemma 8.2 that is most appropriate for mathlib ?

I could attempt to prove that instead and then see whether there are other things that need to be generalized.

**Comment by riccardobrasca** [comment]
I don't have any real preference, I just wanted to double check that we are not doing the same thing twice.

**Comment by mkaratarakis** [comment]
I have only one sorry left to finish this PR

```lean
theorem one_le_norm_basisMatrix (hB : basisMatrix K ≠ 0) : 1 ≤ ‖(basisMatrix K)⁻¹‖ := sorry
```
I know it's true for integer matrices and we have [Int.Matrix.one_le_norm_A_of_ne_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/SiegelsLemma.html#Int.Matrix.one_le_norm_A_of_ne_zero). Do we have anything I can use in this case? Otherwise, I will have to change my constants.

**Comment by riccardobrasca** [comment]
> @riccardobrasca I have only one sorry left to finish this PR
> 
> ```lean
> theorem one_le_norm_basisMatrix (hB : basisMatrix K ≠ 0) : 1 ≤ ‖(basisMatrix K)⁻¹‖ := sorry
> ```
> 
> I know it's true for integer matrices and we have [Int.Matrix.one_le_norm_A_of_ne_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/SiegelsLemma.html#Int.Matrix.one_le_norm_A_of_ne_zero). Do we have anything I can use in this case? Otherwise, I will have to change my constants.

I am busy until Wednesday, but I can have a look later.

**Comment by mkaratarakis** [comment]
OK, thanks a lot

File: Mathlib/NumberTheory/NumberField/House.lean [hunk 8]
```diff
@@ -0,0 +1,139 @@
...
+        (Algebra.discr_not_zero_of_basis ℚ (integralBasis K))
+      rw [← Algebra.discr_reindex ℚ (integralBasis K) e.symm]
+      exact (Algebra.discr_eq_det_embeddingsMatrixReindex_pow_two ℚ ℂ
+        (fun i => integralBasis K (e i)) RingHom.equivRatAlgHom).symm
+
+instance : Invertible (basisMatrix K) := Matrix.invertibleOfIsUnitDet _
+    (Matrix.det_transpose (basisMatrix K) ▸ (Ne.isUnit (det_of_basisMatrix_non_zero K)))
+/-- `basisMatrixInvNormMulRank` is defined as the product of the maximum absolute
+  value of the entries of the inverse of the matrix `basisMatrix` and  `finrank ℚ K`. -/
+def basisMatrixInvNormMulRank := (finrank ℚ K) * ‖fun i j => (basisMatrix K)⁻¹ i j‖
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/House.lean:94]:
```suggestion
  value of the entries of the inverse of the matrix `basisMatrix` and  `finrank ℚ K`. -/
  
def basisMatrixInvNormMulRank := (finrank ℚ K) * ‖fun i j => (basisMatrix K)⁻¹ i j‖
```

**Comment by riccardobrasca** [comment]
> @riccardobrasca I have only one sorry left to finish this PR
> 
> ```lean
> theorem one_le_norm_basisMatrix (hB : basisMatrix K ≠ 0) : 1 ≤ ‖(basisMatrix K)⁻¹‖ := sorry
> ```
> 
> I know it's true for integer matrices and we have [Int.Matrix.one_le_norm_A_of_ne_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/SiegelsLemma.html#Int.Matrix.one_le_norm_A_of_ne_zero). Do we have anything I can use in this case? Otherwise, I will have to change my constants.

Can you post a mwe?

> @riccardobrasca I have only one sorry left to finish this PR
> 
> ```lean
> theorem one_le_norm_basisMatrix (hB : basisMatrix K ≠ 0) : 1 ≤ ‖(basisMatrix K)⁻¹‖ := sorry
> ```
> 
> I know it's true for integer matrices and we have [Int.Matrix.one_le_norm_A_of_ne_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/SiegelsLemma.html#Int.Matrix.one_le_norm_A_of_ne_zero). Do we have anything I can use in this case? Otherwise, I will have to change my constants.

Can you please post a mwe? I get an error with your code. (Since you are at it, there is a typo in the docstring of [Int.Matrix.one_le_norm_A_of_ne_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/SiegelsLemma.html#Int.Matrix.one_le_norm_A_of_ne_zero), can you please fix it? Thanks!)

**Comment by fbarroero** [comment]
> > @riccardobrasca I have only one sorry left to finish this PR
> > ```lean
> > theorem one_le_norm_basisMatrix (hB : basisMatrix K ≠ 0) : 1 ≤ ‖(basisMatrix K)⁻¹‖ := sorry
> > ```
> > 
> > 
> >     
> >       
> >     
> > 
> >       
> >     
> > 
> >     
> >   
> > I know it's true for integer matrices and we have [Int.Matrix.one_le_norm_A_of_ne_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/SiegelsLemma.html#Int.Matrix.one_le_norm_A_of_ne_zero). Do we have anything I can use in this case? Otherwise, I will have to change my constants.
> 
> Can you post a mwe?
> 
> > @riccardobrasca I have only one sorry left to finish this PR
> > ```lean
> > theorem one_le_norm_basisMatrix (hB : basisMatrix K ≠ 0) : 1 ≤ ‖(basisMatrix K)⁻¹‖ := sorry
> > ```
> > 
> > 
> >     
> >       
> >     
> > 
> >       
> >     
> > 
> >     
> >   
> > I know it's true for integer matrices and we have [Int.Matrix.one_le_norm_A_of_ne_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/SiegelsLemma.html#Int.Matrix.one_le_norm_A_of_ne_zero). Do we have anything I can use in this case? Otherwise, I will have to change my constants.
> 
> Can you please post a mwe? I get an error with your code. (Since you are at it, there is a typo in the docstring of [Int.Matrix.one_le_norm_A_of_ne_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/SiegelsLemma.html#Int.Matrix.one_le_norm_A_of_ne_zero), can you please fix it? Thanks!)

I have just opened a PR (#14797) in which I  replace `Fin m` and `Fin n` with `Fintype α` and `Fintype β`. I hope this helps.
I also corrected that typo.

@riccardobrasca, can you have a look? Thanks

**Comment by mkaratarakis** [comment]
Here's an mwe for the ```basisMatrix``` : 

```lean
import Mathlib.Analysis.Matrix
import Mathlib.NumberTheory.NumberField.CanonicalEmbedding.Basic

variable {K : Type*} [Field K] [NumberField K]

namespace NumberField

noncomputable section

open Module.Free FiniteDimensional NumberField.canonicalEmbedding NumberField Matrix

/-- The house of an algebraic number as the norm of its image by the canonical embedding.-/
abbrev house (α : K) : ℝ := ‖canonicalEmbedding K α‖

variable (K)

/-- An equivalence between the set of embeddings of `K` into `ℂ` and the index set of the chosen
  basis of the ring of integers of `K`. -/
abbrev equivReindex : (K →+* ℂ) ≃ (ChooseBasisIndex ℤ (𝓞 K)) := Fintype.equivOfCardEq <|
  by rw [Embeddings.card, ← finrank_eq_card_chooseBasisIndex, RingOfIntegers.rank]

/-- The basis matrix for the embeddings of `K` into `ℂ`. This matrix is formed by
  taking the lattice basis vectors of `K` and reindexing them according to the
  equivalence `equivReindex`, then transposing the resulting matrix. -/
abbrev basisMatrix : Matrix (K →+* ℂ) (K →+* ℂ) ℂ :=
  (Matrix.of fun i ↦ latticeBasis K (equivReindex K i)).transpose

variable [DecidableEq (K →+* ℂ)]

theorem det_of_basisMatrix_non_zero : (basisMatrix K).transpose.det ≠ 0 := by
      let e : (K →+* ℂ) ≃ ChooseBasisIndex ℤ (𝓞 K) := equivReindex K
      let N := Algebra.embeddingsMatrixReindex ℚ ℂ (fun i => integralBasis K (e i))
        RingHom.equivRatAlgHom
      rw [show (basisMatrix K).transpose = N by {
        ext:2; simp only [N, Matrix.transpose_apply, latticeBasis_apply, integralBasis_apply,
        Matrix.of_apply, apply_at]; rfl}, ← pow_ne_zero_iff two_ne_zero]
      convert (map_ne_zero_iff _ (algebraMap ℚ ℂ).injective).mpr
        (Algebra.discr_not_zero_of_basis ℚ (integralBasis K))
      rw [← Algebra.discr_reindex ℚ (integralBasis K) e.symm]
      exact (Algebra.discr_eq_det_embeddingsMatrixReindex_pow_two ℚ ℂ
        (fun i => integralBasis K (e i)) RingHom.equivRatAlgHom).symm

instance : Invertible (basisMatrix K) := Matrix.invertibleOfIsUnitDet _
    (Matrix.det_transpose (basisMatrix K) ▸ (Ne.isUnit (det_of_basisMatrix_non_zero K)))

variable {α : Type _} {β : Type _} [Fintype α] [Fintype β]
  [DecidableEq β] [DecidableEq α]

def newBasis := (RingOfIntegers.basis K).reindex (equivReindex K).symm

/-- The basisMatrix is nonzero. -/
theorem basisMatnotzero : (basisMatrix K) ≠ 0 := by {
  intros H
  rw [← Matrix.ext_iff] at H
  have hbasis := Basis.ne_zero (newBasis K)
  have : 0 < Fintype.card (K →+* ℂ) := by {
      exact Fintype.card_pos}
  rw [Fintype.card_pos_iff] at this
  let ⟨b⟩ := this
  apply hbasis b
  simp only [basisMatrix, latticeBasis_apply, integralBasis_apply, transpose_apply, of_apply,
    apply_at, zero_apply, _root_.map_eq_zero, RingOfIntegers.coe_eq_zero_iff, forall_const] at H
  unfold newBasis
  simp only [Basis.coe_reindex, Equiv.symm_symm, Function.comp_apply]
  exact H b}

attribute [local instance] Matrix.seminormedAddCommGroup

theorem one_le_norm_basisMatrix (hB : basisMatrix K ≠ 0) : 1 ≤ ‖(basisMatrix K)⁻¹‖ := sorry
```

**Comment by mkaratarakis** [comment]
I also needed something like this 
```lean
/--The sup norm of a non-zero integer matrix is at least one  -/
--this might need to change for arbitrary integer matrices
theorem Int.Matrix.one_le_norm_A_of_ne_zero'
  (A : Matrix  (α × (K →+* ℂ)) (β × (K →+* ℂ)) ℤ) (hA : A ≠ 0) : 1 ≤ ‖A‖ := by
  by_contra! h; apply hA; ext i j
  simp only [← zero_apply, norm_lt_iff Real.zero_lt_one] at h
  specialize h i j
  rw [Int.norm_eq_abs] at h
  norm_cast at h
  exact Int.abs_lt_one_iff.1 h
``` for the integer matrix I am using.

**Comment by mkaratarakis** [comment]
And this version of Siegel's lemma was easier to work with but I can adapt it when the new PR is in : 

```lean
--I used this version of Siegel's lemma
theorem Int.Matrix.exists_ne_zero_int_vec_norm_le' (m n : ℕ)
  (cardα : Fintype.card α = m) (cardβ : Fintype.card β = n)
  (A : Matrix α β ℤ) (hm : 0 < m) (hn : m < n) (hA_nezero : A ≠ 0) :
  ∃ t, (∃ l, t l ≠ 0) ∧ (∀ k, (A *ᵥ t) k = 0)
  ∧ (∀ k, ‖t k‖ ≤ (↑n * ‖A‖) ^ ((m : ℝ) / (n - m))) := sorry
```

**Comment by riccardobrasca** [comment]
> And this version of Siegel's lemma was easier to work with but I can adapt my proof when the new PR is in :
> 
> ```lean
> --I used this version of Siegel's lemma
> theorem Int.Matrix.exists_ne_zero_int_vec_norm_le' (m n : ℕ)
>   (cardα : Fintype.card α = m) (cardβ : Fintype.card β = n)
>   (A : Matrix α β ℤ) (hm : 0 < m) (hn : m < n) (hA_nezero : A ≠ 0) :
>   ∃ t, (∃ l, t l ≠ 0) ∧ (∀ k, (A *ᵥ t) k = 0)
>   ∧ (∀ k, ‖t k‖ ≤ (↑n * ‖A‖) ^ ((m : ℝ) / (n - m))) := sorry
> ```

What new PR?

**Comment by mkaratarakis** [comment]
> > And this version of Siegel's lemma was easier to work with but I can adapt my proof when the new PR is in :
> > ```lean
> > --I used this version of Siegel's lemma
> > theorem Int.Matrix.exists_ne_zero_int_vec_norm_le' (m n : ℕ)
> >   (cardα : Fintype.card α = m) (cardβ : Fintype.card β = n)
> >   (A : Matrix α β ℤ) (hm : 0 < m) (hn : m < n) (hA_nezero : A ≠ 0) :
> >   ∃ t, (∃ l, t l ≠ 0) ∧ (∀ k, (A *ᵥ t) k = 0)
> >   ∧ (∀ k, ‖t k‖ ≤ (↑n * ‖A‖) ^ ((m : ℝ) / (n - m))) := sorry
> > ```
> 
> What new PR?

It's merged already. I was referring to PR (https://github.com/leanprover-community/mathlib4/pull/14797)

**Comment by riccardobrasca** [comment]
Ah OK. Anyway I don't see any very quick way of proving your lemma. Even the math proof is not completely trivial, isn't it?

**Comment by mkaratarakis** [comment]
Right, so this is the only 'sorry' I have and I am not sure if the statement is true. Which proof did you consider? Shall I push the whole thing and see whether there is something else that can be done?

**Comment by mkaratarakis** [comment]
@riccardobrasca please review this when you can. @digama0 helped me fix that constant and refactor the proof.

File: Mathlib/NumberTheory/NumberField/House.lean [hunk 9]
```diff
@@ -0,0 +1,349 @@
...
+abbrev equivReindex : (K →+* ℂ) ≃ (ChooseBasisIndex ℤ (𝓞 K)) := Fintype.equivOfCardEq <|
+  by rw [Embeddings.card, ← finrank_eq_card_chooseBasisIndex, RingOfIntegers.rank]
+
+/-- The basis matrix for the embeddings of `K` into `ℂ`. This matrix is formed by
+  taking the lattice basis vectors of `K` and reindexing them according to the
+  equivalence `equivReindex`, then transposing the resulting matrix. -/
+abbrev basisMatrix : Matrix (K →+* ℂ) (K →+* ℂ) ℂ :=
+  (of fun i ↦ latticeBasis K (equivReindex K i)).transpose
+
+lemma inv_mulVec_eq_vec {n : Type _} { α : Type _} [Fintype n] [DecidableEq n] [CommRing α]
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/House.lean:65]: This should go to a more basic file.

File: Mathlib/NumberTheory/NumberField/House.lean [hunk 10]
```diff
@@ -0,0 +1,349 @@
...
+
+@[simp] theorem house_intCast (x : ℤ) : house (x : K) = |x| := by
+  simp only [house, map_intCast, Pi.intCast_def, pi_norm_const, Complex.norm_eq_abs,
+    Complex.abs_intCast, Int.cast_abs]
+
+variable (K)
+
+/-- An equivalence between the set of embeddings of `K` into `ℂ` and the
+  index set of the chosen basis of the ring of integers of `K`. -/
+abbrev equivReindex : (K →+* ℂ) ≃ (ChooseBasisIndex ℤ (𝓞 K)) := Fintype.equivOfCardEq <|
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/House.lean:56]: Can you move to a more basic file? Same for the `abbrev` below.

File: Mathlib/NumberTheory/NumberField/House.lean [hunk 11]
```diff
@@ -0,0 +1,349 @@
...
+abbrev basisMatrix : Matrix (K →+* ℂ) (K →+* ℂ) ℂ :=
+  (of fun i ↦ latticeBasis K (equivReindex K i)).transpose
+
+lemma inv_mulVec_eq_vec {n : Type _} { α : Type _} [Fintype n] [DecidableEq n] [CommRing α]
+    {A : Matrix n n α} [Invertible A] {u v : n → α} (hM : u = A.mulVec v) : A⁻¹.mulVec u = v := by
+  rw [hM, mulVec_mulVec, inv_mul_of_invertible, one_mulVec]
+
+variable [DecidableEq (K →+* ℂ)]
+
+theorem det_of_basisMatrix_non_zero : (basisMatrix K).transpose.det ≠ 0 := by
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/House.lean:71]: Similarly here, this has nothing to with `house`, right?

Also, I think a more natural statement is without the `transpose`.

**Review by riccardobrasca — APPROVED** [review]
This looks almost good, thanks!

I think a good idea is to create a new file about `equivReindex` and move all the relevant declaration there, keeping here only those related to `house`.

Also, keep in mind that all your theorem are in the namespace `NumberField`, so `NumberField.c` is really a problem: consider creating a namespace `NumberField.house`. Even in this case, try to avoid unspecific name like `c`, or make those declaration `private` (if you think are useless expect in this file).

File: Mathlib/NumberTheory/NumberField/EquivReindex.lean [hunk 12]
```diff
@@ -0,0 +1,73 @@
...
+  convert (map_ne_zero_iff _ (algebraMap ℚ ℂ).injective).mpr
+    (Algebra.discr_not_zero_of_basis ℚ (integralBasis K))
+  rw [← Algebra.discr_reindex ℚ (integralBasis K) e.symm]
+  exact (Algebra.discr_eq_det_embeddingsMatrixReindex_pow_two ℚ ℂ
+    (fun _ => integralBasis K (e _)) RingHom.equivRatAlgHom).symm
+
+instance : Invertible (basisMatrix K) := invertibleOfIsUnitDet _
+    (Ne.isUnit (det_of_basisMatrix_non_zero K))
+
+theorem canonicalEmbedding_eq_basisMatrix_mulVec (α : K) :
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/EquivReindex.lean:56]:
```suggestion

variable {K}

theorem canonicalEmbedding_eq_basisMatrix_mulVec (α : K) :
```

File: Mathlib/NumberTheory/NumberField/House.lean [hunk 13]
```diff
@@ -0,0 +1,308 @@
...
+
+/-- The house of an algebraic number as the norm of its image by the canonical embedding.-/
+def house (α : K) : ℝ := ‖canonicalEmbedding K α‖
+
+theorem house_eq_sup' (α : K) :
+    house α = univ.sup' univ_nonempty (fun φ : K →+* ℂ ↦ ‖φ α‖₊) := by
+  rw [house, ← coe_nnnorm, nnnorm_eq, ← sup'_eq_sup univ_nonempty]
+
+theorem house_sum_le_sum_house {ι : Type*} (s : Finset ι) (α : ι → K) :
+    house (∑ i in s, α i) ≤ ∑ i in s, house (α i) := by
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/House.lean:42]:
```suggestion
    house (∑ i ∈ s, α i) ≤ ∑ i in s, house (α i) := by
```
I never remember if this works or not.

File: Mathlib/NumberTheory/NumberField/House.lean [hunk 14]
```diff
@@ -0,0 +1,308 @@
...
+/-- `supOfBasis K` calculates the supremum of the absolute values of
+  the elements in `newBasis K`. -/
+private def supOfBasis : ℝ := univ.sup' univ_nonempty
+  fun r ↦ house (algebraMap (𝓞 K) K (newBasis K r))
+
+private theorem supOfBasis_nonneg : 0 ≤ supOfBasis K := by
+  simp only [supOfBasis, le_sup'_iff, mem_univ, and_self,
+    exists_const, house_nonneg]
+
+variable {α : Type _} {β : Type _} [Fintype α] [Fintype β] [DecidableEq β] [DecidableEq α]
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/House.lean:113]:
```suggestion
variable {α : Type*} {β : Type*} [Fintype α] [Fintype β] [DecidableEq β] [DecidableEq α]
```

File: Mathlib/NumberTheory/NumberField/House.lean [hunk 15]
```diff
@@ -0,0 +1,308 @@
...
+/-- `a' K a` returns the integer coefficients of the basis vector in the
+  expansion of the product of an algebraic integer and a basis vectors. -/
+private def a' : α → β → (K →+* ℂ) → (K →+* ℂ) → ℤ := fun k l r =>
+  (newBasis K).repr (a k l * (newBasis K) r)
+
+/--`asiegel K a` the integer matrix of the coefficients of the
+  product of matrix elements and basis vectors -/
+private def asiegel : Matrix (α × (K →+* ℂ)) (β × (K →+* ℂ)) ℤ := fun k l => a' K a k.1 l.1 l.2 k.2
+
+variable (ha : a ≠ 0)
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/House.lean:126]: ### 
```suggestion
variable {a} (ha : a ≠ 0)
```

File: Mathlib/NumberTheory/NumberField/House.lean [hunk 16]
```diff
@@ -0,0 +1,308 @@
...
+          (mul_nonneg (Nat.cast_nonneg' _) (Nat.cast_nonneg _))
+      · exact div_nonneg (Nat.cast_nonneg' _) (sub_nonneg.2 (mod_cast hpq.le))
+    · apply Real.rpow_nonneg
+      exact mul_nonneg (mul_nonneg (Nat.cast_nonneg' _) (Nat.cast_nonneg' _))
+        (norm_nonneg _)
+    · exact mul_nonneg (Nat.cast_nonneg' _) (mul_nonneg (le_trans zero_le_one (le_max_left ..))
+        (supOfBasis_nonneg _))
+  · rw [mul_comm (q : ℝ) (c₁ K)]; rfl
+
+theorem exists_ne_zero_int_vec_house_le :
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/House.lean:284]: Can you add a docstring to this theorem? Also adding it to the beginning of the file if you think it is the main result.

**Review by riccardobrasca — APPROVED** [review]
A couple of more comments but it is almost done, thanks!

bors d+

**Comment by mkaratarakis** [comment]
Thanks a lot for the review. Most of the defs should be private then.

File: Mathlib/NumberTheory/NumberField/House.lean [hunk 17]
```diff
@@ -0,0 +1,310 @@
...
+
+namespace NumberField
+
+noncomputable section
+
+open Module.Free FiniteDimensional canonicalEmbedding Matrix Finset
+
+attribute [local instance] Matrix.seminormedAddCommGroup
+
+/-- The house of an algebraic number as the norm of its image by the canonical embedding.-/
```
Comment (xroblot) [inline Mathlib/NumberTheory/NumberField/House.lean:34]: You should probably mentioned here also --as you did in the introduction--,  that the house is the largest of the modulus of the conjugates and refer to `house_eq_sup'` for the proof.

File: Mathlib/NumberTheory/NumberField/House.lean (hunk 13 above)
Comment (digama0) [reply Mathlib/NumberTheory/NumberField/House.lean]: this works but does something different, I think?

**Comment by riccardobrasca** [comment]
@mkaratarakis can you fix the last comment and merge this? Thanks!

**Comment by mkaratarakis** [comment]
> @mkaratarakis can you fix the last comment and merge this? Thanks!

Right, thanks for reminding me!

**Comment by mkaratarakis** [comment]
Is it OK now? Shall we merge it?

**Comment by riccardobrasca** [comment]
Yes, you can even do it by yourself! See [this](https://github.com/leanprover-community/mathlib4/pull/14041#issuecomment-2241089097) message.

**Comment by riccardobrasca** [comment]
Something changed in mathlib. Can you please merge master, fix the error and when CI passes merge it again? Thanks!

**Comment by riccardobrasca** [comment]
I've merged `master. After `git pull` and `lake exe cache get` you can fix the error.
